US04880808
A mixture of 5.9 parts of 1,1'-(5-bromo-1-pentylidene)bis[4-fluorobenzene], 5.6 parts of N-(4-acetyl-2,6-dichlorophenyl)-3-(aminocarbonyl)-1-piperazineacetamide, 4.05 parts of N,N-diethylethanamine and 90 parts of N,N-dimethylformamide was stirred over weekend at 70° C. After evaporation, the residue was taken up in dichloromethane. The organic layer was washed with water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (97:3 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the hydrochloride salt in acetonitrile and 2-propanol. The salt was filtered off and dried, yielding 2.54 parts (24.0%) of N-(4-acetyl-2,6-dichlorophenyl)-3-(aminocarbonyl)-4-[5,5-bis(4-fluorophenyl)pentyl]-1-piperazineacetamide dihydrochloride; mp. 181.2° C. (compound 14).

reactant | 1,1'-(5-bromo-1-pentylidene)bis[4-fluorobenzene] | BrCCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C17H17BrF2
reactant | N-(4-acetyl-2,6-dichlorophenyl)-3-(aminocarbonyl)-1-piperazineacetamide | C(C)(=O)C1=CC(=C(C(=C1)Cl)NC(CN1CC(NCC1)C(=O)N)=O)Cl | C15H18Cl2N4O3
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-(4-acetyl-2,6-dichlorophenyl)-3-(aminocarbonyl)-4-[5,5-bis(4-fluorophenyl)pentyl]-1-piperazineacetamide dihydrochloride | 24.0% | Cl.Cl.C(C)(=O)C1=CC(=C(C(=C1)Cl)NC(CN1CC(N(CC1)CCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)C(=O)N)=O)Cl | InChI=1S/C32H34Cl2F2N4O3.2ClH/c1-20(41)23-16-27(33)31(28(34)17-23)38-30(42)19-39-14-15-40(29(18-39)32(37)43)13-3-2-4-26(21-5-9-24(35)10-6-21)22-7-11-25(36)12-8-22;;/h5-12,16-17,26,29H,2-4,13-15,18-19H2,1H3,(H2,37,43)(H,38,42);2*1H
